US08735414B2
(S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylic acid (Cmp 758)
A mixture of (S)-methyl 1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylate (0.45 g, 0.85 mmol), 25% aq. NaOH (2.0 mL) in ethanol (4.0 mL) was stirred at 80° C. overnight. The mixture was then treated with water and extracted with ether. The aqueous layer was acidified with 1N HCl to pH 4 and extracted with ethyl acetate. The organic layers were washed with brine, dried over Na2SO4 and evaporated to give(S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylic acid (0.36 g, 82%). MS m/z 514.2 M+H+; 1H NMR (500 MHz, acetone-d6): δ 10.55 (1H, br s), 9.17 (1H, d, J=2.2 Hz), 8.38 (1H, dd, J=8.2 Hz, J=2.2 Hz), 7.96 (1H, dd, J=8.2, 0.8 Hz), 7.89 (1H, d, J=10.7 Hz), 7.70 (br s, 1H), 7.57 (1H, d, J=6.4 Hz), 4.63-4.56 (1H, m), 4.34-4.29 (1H, m), 2.44 (3H, d, J=1.8 Hz), 2.29-2.25 (2H, m), 2.10-1.90 (4H, m), 1.67-1.56 (2H, m), 1.25 (3H, d, J=7.0 Hz).

reactant | (S)-methyl 1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylate | 0.85 mmol, 0.45 g | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)OC)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C24H25F4N3O4S
reactant | NaOH | 2.0 mL | [OH-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 4.0 mL | C(C)O | C2H6O
product | (S)-1-cyclopentyl-5-fluoro-6-methyl-2-(5-(N-(1,1,1-trifluoropropan-2-yl)sulfamoyl)pyridin-2-yl)-1H-indole-3-carboxylic acid | C1(CCCC1)N1C(=C(C2=CC(=C(C=C12)C)F)C(=O)O)C1=NC=C(C=C1)S(N[C@H](C(F)(F)F)C)(=O)=O | C23H23F4N3O4S
